US06320050B1
A solution of 2-(3,4-bis-methanesulfonyl-phenyl)-3-cyclopentyl-propionic acid methyl ester (1.17 g, 3.01 mmol) in tetrahydrofuran (12 mL) was treated with a 0.8M aqueous lithium hydroxide solution (5.6 mL, 4.52 mmol). The reaction mixture was stirred at 25° C. for 3 h. The resulting reaction mixture was partitioned between water (75 mL) and ethyl acetate (75 mL) and then treated with a 1N aqueous hydrochloric acid solution (10 mL). The layers were shaken and separated. The organic layer was dried over magnesium sulfate, filtered, and concentrated in vacuo to afford 2-(3,4-bis-methanesulfonyl-phenyl)-3-cyclopentyl-propionic acid (1.10 g, 98%) as a white foam which was used without further purification: mp 64-68° C. (foam to gel); FAB-HRMS m/e calcd for C16H22O6S2 (M+H)+ 375.0936, found 375.0932.

reactant | 2-(3,4-bis-methanesulfonyl-phenyl)-3-cyclopentyl-propionic acid methyl ester | 3.01 mmol, 1.17 g | COC(C(CC1CCCC1)C1=CC(=C(C=C1)S(=O)(=O)C)S(=O)(=O)C)=O | C17H24O6S2
reactant | lithium hydroxide | 4.52 mmol, 0.8M, 5.6 mL | [OH-].[Li+]
solvent | tetrahydrofuran | 12 mL | O1CCCC1 | C4H8O
product | 2-(3,4-bis-methanesulfonyl-phenyl)-3-cyclopentyl-propionic acid | 1.10 g, 98% | CS(=O)(=O)C=1C=C(C=CC1S(=O)(=O)C)C(C(=O)O)CC1CCCC1 | C16H22O6S2
